US09447106B2
Compound 48: 2-(3-Acrylamidophenyl)-6-(4-phenoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carboxamide
The desired product was prepared from 2-(3-aminophenyl)-6-(4-phenoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carboxamide and acryloyl chloride using the procedure similar to that for compound 8. 1H NMR (400 MHz, CD3OD-d4) δ 8.06 (s, 1H), 7.83 (s, 1H), 7.64 (d, J=8.4 Hz, 1H), 7.52-7.38 (m, 5H), 7.15 (t, J=7.6 Hz, 1H), 7.09-7.05 (m, 4H), 6.49-6.37 (m, 2H) and 5.80 (dd, J=4.0, 8.8 Hz, 1H). MS (ESI) m/e [M+1]+ 463.9.

reactant | 2-(3-aminophenyl)-6-(4-phenoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carboxamide | NC=1C=C(C=CC1)C=1NC=2N(N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2)C1 | C24H19N5O2
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | 2-(3-Acrylamidophenyl)-6-(4-phenoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carboxamide | C(C=C)(=O)NC=1C=C(C=CC1)C=1NC=2N(N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2)C1 | C27H21N5O3
